US09108939B2
Diethyl 3-chloro-4-nitrobenzylphosphonate (2.80 mmol, 0.86 g), tert-butyl 4-oxopiperidine-1-carboxylate (2.80 mmol, 0.557 g) and tetrahydrofuran (4.89 mL) were stirred and sodium hydride (4.19 mmol, 0.168 g) was added. The reaction was stirred overnight at room temperature. Water was added and the reaction extracted with dichloromethane. The organic phase was dried over sodium sulfate and concentrated under vacuum to afford the intermediate tert-butyl 4-(3-chloro-4-nitrobenzylidene)-piperidine-1-carboxylate (0.85 g).

reactant | Diethyl 3-chloro-4-nitrobenzylphosphonate | 2.80 mmol, 0.86 g | ClC=1C=C(CP(OCC)(OCC)=O)C=CC1[N+](=O)[O-] | C11H15ClNO5P
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 2.80 mmol, 0.557 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | tetrahydrofuran | 4.89 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 4.19 mmol, 0.168 g | [H-].[Na+]
solvent | Water | O | H2O
product | tert-butyl 4-(3-chloro-4-nitrobenzylidene)-piperidine-1-carboxylate | 0.85 g | ClC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C17H21ClN2O4
